US07138425B2
c) 2-[4-Methoxy-5-[5-(2-benzothiophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole (140 mg, 0.38 mmol) and 1,2,4-benzenetricarboxylic anhydride (72 mg, 0.38 mmol) the title compound was obtained (100 mg, 22%). 1H NMR (DMSO) δ 13.79(s, 1H), 8.44(dd, 1H), 8.34(s, 1H), 8.22(m, 2H), 8.11(d, 1H), 8.01(d, 1H), 7.97(s, 1H), 7.92(d, 1H), 7.87(m, 2H), 7.73(dd, 1H), 7.48(d, 1H), 7.40(m, 2H), 4.04(s, 3H). MS 547.0 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole | 0.38 mmol, 140 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C22H16N2O2S
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.38 mmol, 72 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(2-benzothiophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C31H18N2O6S
